US08058441B2
(b). 1-Acetyl-6-(tert-butoxycarbonyl)amino-1,2-dihydro-2,2,4-trimethylquinoline
Acetyl chloride (11.1 ml) and acetic anhydride (11.1 ml) were added dropwise to a solution of 6-(tert-butoxycarbonyl)amino-1,2-dihydro-2,2,4-trimethylquinoline (8.5 g) in pyridine (22 ml) and dichloromethane (212 ml). After stirring for 18 h, the reaction mixture was washed with 2 M HCl and water. The organic layer was dried (MgSO4), filtered and concentrated in vacuo. The residue was chromatographed on silicagel in heptane/ethyl acetate=8/2 (v/v) as eluent.

reactant | Acetyl chloride | 11.1 ml | C(C)(=O)Cl | C2H3ClO
reactant | acetic anhydride | 11.1 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 6-(tert-butoxycarbonyl)amino-1,2-dihydro-2,2,4-trimethylquinoline | 8.5 g | C(C)(C)(C)OC(=O)NC=1C=C2C(=CC(NC2=CC1)(C)C)C | C17H24N2O2
solvent | pyridine | 22 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 212 ml | ClCCl | CH2Cl2
product | 1-Acetyl-6-(tert-butoxycarbonyl)amino-1,2-dihydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(C=C(C2=CC(=CC=C12)NC(=O)OC(C)(C)C)C)(C)C | C19H26N2O3
